US08293738B2
1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-m-tolylurea
The title compound was prepared by substituting 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline and 1-isocyanato-3-methylbenzene for 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline and 1-fluoro-3-isocyanatobenzene, respectively in Example 1D.

reactant | 1-isocyanato-3-methylbenzene | N(=C=O)C1=CC(=CC=C1)C | C8H7NO
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | 1-fluoro-3-isocyanatobenzene | FC1=CC(=CC=C1)N=C=O | C7H4FNO
product | 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-m-tolylurea | CC1(OB(OC1(C)C)C=1C=C(C=CC1)NC(=O)NC=1C=C(C=CC1)C)C | C20H25BN2O3
